US06946554B2
2-Cyano-3-cyclohexylpropenal
2-(Dimethoxymethyl)-3-cyclohexylacrylonitrile, obtained from Example 3 (4.18 g, 0.02 mol) and 6N HCl (50 mL) were stirred together overnight at room temperature. The product was extracted with ethyl acetate (200 mL), the extract was dried) (MgSO4) and the ethyl acetate was evaporated in vacuo to give a 2.5 g (76%) of a brown oil which was used directly. A sample was distilled in a kugelrohr apparatus to give a pale yellow oil from which an analytical 2,4-dinitrophenyl hydrazone derivative was obtained as orange needles, mp 228-30° C.

reactant | 2-(Dimethoxymethyl)-3-cyclohexylacrylonitrile | COC(C(C#N)=CC1CCCCC1)OC | C12H19NO2
solvent | HCl | 6N, 50 mL | Cl | ClH
product | 2-Cyano-3-cyclohexylpropenal | 2.5 g, 76% | C(#N)C(C=O)=CC1CCCCC1 | C10H13NO
